US06077954
2,4,6-Trihydroxymethyl-s-triazine
2,4,6-Triethoxycarbonyl-s-triazine (1 g, 3.36 mmol) is dissolved in dichloromethane (15 mL) and absolute ethanol (25 mL) then cooled to 0° C. before sodium borohydride (127 mg, 3.36 mmol) is added. After 15 minutes calcium chloride (373 mg, 2.97 mmol) is added and the reaction mixture is warmed to room temperature. The reaction mixture is dried to a yellow solid and subjected to soxhlet extraction with ethanol. The ethanol is evaporated to a white solid. The product is crystallized from Methanol and water or purified by silica gel flash column chromatography to give the title compound.

reactant | 2,4,6-Triethoxycarbonyl-s-triazine | 3.36 mmol, 1 g | C(C)OC(=O)C1=NC(=NC(=N1)C(=O)OCC)C(=O)OCC | C12H15N3O6
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | sodium borohydride | 3.36 mmol, 127 mg | [BH4-].[Na+]
reactant | calcium chloride | 2.97 mmol, 373 mg | [Cl-].[Ca+2].[Cl-]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2,4,6-Trihydroxymethyl-s-triazine | OCC1=NC(=NC(=N1)CO)CO | C6H9N3O3
